US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-2,3-dimethoxy-benzamide
The title compound (6 mg, 14%) was prepared analogously to example 8 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 2,3-dimethoxy-benzoic acid. MS: 433.5 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 2,3-dimethoxy-benzoic acid | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-2,3-dimethoxy-benzamide | 6 mg, 14% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=C(C(=CC=C2)OC)OC)=O)C=C1)OCC | C23H29ClN2O4
